US09023846B2
To a mixture of 4-tert-butyl-1-methyl-1H-imidazole (800 mg, 5.79 mmol, prepared as described in the previous step) and triethylamine (2.00 mL, 14.4 mmol) in acetonitrile (10 mL) at −30° C. was added methyl chloroformate (0.890 mL, 11.6 mmol) slowly under Ar. The resulting mixture was warmed to room temperature and continued to stir for 16 h. The resulting mixture was then treated with EtOAc (50 mL) and washed with H2O (2×20 mL), brine (20 mL) and then dried with Na2SO4. The solvent was evaporated in vacuo and the residue was purified by flash chromatography on silica gel (0:100-10:90 MeOH/DCM) to yield 4-tert-butyl-1-methyl-1H-imidazole-2-carboxylic acid methyl ester as a colorless oil. 1H-NMR (400 MHz, CDCl3) δ: 6.78 (s, 1H), 3.95 (s, 3H), 3.92 (s, 3H), 1.30 (s, 9H). Mass Spectrum (LCMS, ESI pos.) Calculated For C10H16N2O2: 197.1 (M+H), Measured: 197.1.

reactant | 4-tert-butyl-1-methyl-1H-imidazole | C(C)(C)(C)C=1N=CN(C1)C | C8H14N2
reactant | triethylamine | 14.4 mmol, 2.00 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 11.6 mmol, 0.890 mL | ClC(=O)OC | C2H3ClO2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-tert-butyl-1-methyl-1H-imidazole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(N1)C(C)(C)C)C | C10H16N2O2
